US05637739
A solution of salicylaldehyde (24.42 g, 0.200 molc) in 80 ml of EtOh was added to a stirred solution of ethylenediamine (6.070 g, 0.100, olc) in a mixture of 50 ml EtOH and 50 ml of H2O over a period of 5 minutes. The reaction mixture was refluxed for 1 hour and stirred at room temperature overnight. The yellow crystalline product was separated by filtration and washed with 2×30 ml of cold 60% EtOh and air dried to yield 25.733 g (95.9%) of salen.

reactant | salicylaldehyde | 24.42 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | ethylenediamine | 6.070 g | C(CN)N | C2H8N2
solvent | EtOH | 50 ml | CCO | C2H6O
solvent | H2O | 50 ml | O | H2O
product | salen | 25.733 g, 95.9% | C1=C/C(=C\NCCN/C=C\2/C=CC=CC2=O)/C(=O)C=C1 | C16H16N2O2
